US06066658
Ethyl 4,5-dihydro-8-isopropylthio-2-methylthieno[3,4-g]benzoxazole-6-carboxylate (0.71 g) was dissolved in ethanol (30 ml); a 2 N aqueous solution of sodium hydroxide (2.1 ml) was added at 50° C. After the reaction mixture was stirred at 50° C. for 1 hour, the solution obtained was poured over water, acidified with 1 N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with water and dried (MgSO4), after which the solvent was distilled off to yield 4,5-dihydro-8-isopropylthio-2-methylthieno[3,4-g]benzoxazole-6-carboxylic acid (0.57 g, 66%), which was then recrystallized from ethyl acetate-hexane. Yellow prisms. Melting point 277-278° C.

reactant | Ethyl 4,5-dihydro-8-isopropylthio-2-methylthieno[3,4-g]benzoxazole-6-carboxylate | 0.71 g | C(C)(C)SC=1SC(=C2C1C1=C(N=C(O1)C)CC2)C(=O)OCC | C16H19NO3S2
reactant | sodium hydroxide | 2.1 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4,5-dihydro-8-isopropylthio-2-methylthieno[3,4-g]benzoxazole-6-carboxylic acid | 0.57 g, 66% | C(C)(C)SC=1SC(=C2C1C1=C(N=C(O1)C)CC2)C(=O)O | C14H15NO3S2
